US05661108
Under a nitrogen atmosphere, a stirred mixture of 2.2 grams (0.055 mole) of sodium hydride (60% in mineral oil) in about 40 mL of N,N-dimethylformamide was cooled in an ice-bath, and a solution of 8.0 grams (0.046 mole) of 2,5-difluoro-4-nitroaniline in 100 mL of N,N-dimethylformamide was added dropwise. After the evolution of hydrogen ceased, 7.5 grams (0.069 mole) of ethyl chloroformate was added in small portions. Upon completion of the addition, the reaction mixture was allowed to warm to ambient temperature, where it stirred for about 20 hours. After this time, the reaction mixture was poured into aqueous 3N hydrochloric acid and ice. The resultant precipitate was collected by filtration and dissolved in ethanol. To this stirred solution was then added dropwise a solution of 3.3 grams (0.083 mole) of sodium hydroxide dissolved in a minimum of water. Upon completion of the addition, the reaction mixture was stirred at ambient temperature for about 25 minutes and then made acidic with concentrated hydrochloric acid. The reaction mixture was poured into water, and the resultant solid was collected by filtration. The solid was dried, yielding 7.0 grams of N-ethoxycarbonyl-2,5-difluoro-4-nitroaniline. The NMR spectrum was consistent with the proposed structure.

reactant | sodium hydride | 0.055 mole, 2.2 grams | [H-].[Na+]
reactant | 2,5-difluoro-4-nitroaniline | 0.046 mole, 8.0 grams | FC1=C(N)C=C(C(=C1)[N+](=O)[O-])F | C6H4F2N2O2
reactant | hydrogen | [H][H] | H2
reactant | ethyl chloroformate | 0.069 mole, 7.5 grams | ClC(=O)OCC | C3H5ClO2
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | sodium hydroxide | 0.083 mole, 3.3 grams | [OH-].[Na+]
solvent | N,N-dimethylformamide | about 40 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-ethoxycarbonyl-2,5-difluoro-4-nitroaniline | 7.0 grams | C(C)OC(=O)NC1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C9H8F2N2O4
